US08207350B2
4-(2-amino-1-methyl-ethyl)-phenylamine
2-(4-Nitrophenyl)propionitrile (5.0 g, 28.38 mmoL) was dissolved in a 20% NH3/methanol mixture (100 mL) and treated with Raney Nickel (24.79 g). It was then hydrogenated at 60 psi at room temperature for 4 hr. The reaction was then filtered through a nylon membrane. The filtrate was then concentrated in vacuo to give 4.26 g (100%) of the title compound. It was used without further purification. 1H NMR (300 MHz, CDCl3) δ ppm 7.00 (d, J=8.46 Hz, 2H) 6.66 (d, J=8.09 Hz, 2H) 3.58 (s, 2H) 2.71-2.85 (m, 2H) 2.56-2.70 (m, 1H) 1.20 (d, J=6.62 Hz, 3H). MS m/z (DCI) 151.0 (M+H)+.

reactant | 2-(4-Nitrophenyl)propionitrile | 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C#N)C | C9H8N2O2
solvent | NH3 methanol | 100 mL | N.CO
catalyst | Raney Nickel | 24.79 g | [Ni] | Ni
product | 4-(2-amino-1-methyl-ethyl)-phenylamine | 4.26 g, 100% | NCC(C)C1=CC=C(C=C1)N | C9H14N2
